US08664220B2
Step 1: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-amine
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (1 g, 3.6 mmol), triethylamine (1 mL, 7.2 mmol) and diphenylphosphoryl azide (1.98 g, 7.2 mmol) were placed in toluene (20 mL) and heated to 60° C. for 20 minutes. Benzoic acid hydrazide (0.98 g, 7.2 mmol) was added in a single portion and the reaction was heated and stirred for 2 hours. The reaction was cooled and submitted to aqueous workup. The crude material was dissolved in dioxane (100 mL), phosphorous(V) oxychloride was added and the reaction was heated to 100° C. overnight. The reaction was cooled and worked up and the residue was purified on silica gel (0-80% EtOAc in hexanes) to yield the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 3.6 mmol, 1 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | triethylamine | 7.2 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 7.2 mmol, 1.98 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | Benzoic acid hydrazide | 7.2 mmol, 0.98 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | phosphorous(V) oxychloride | O(Cl)Cl.[P+5]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(5-phenyl-[1,3,4]oxadiazol-2-yl)-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC=1OC(=NN1)C1=CC=CC=C1 | C18H13BrN4O2
